US07902181B2
(S)-N-((S)-1-Cyano-2-(6-(2-hydroxyphenyl)pyridin-3-yl)ethyl)piperidine-2-carboxamide
Prepared by a process analogous to that described in Method 2 Example 2 using (S)-tert-butyl 2-((S)-2-(6-bromopyridin-3-yl)-1-cyanoethylcarbamoyl)piperidine-1-carboxylate and 2-hydroxyphenylboronic acid.

reactant | (S)-tert-butyl 2-((S)-2-(6-bromopyridin-3-yl)-1-cyanoethylcarbamoyl)piperidine-1-carboxylate | BrC1=CC=C(C=N1)C[C@@H](C#N)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C19H25BrN4O3
reactant | 2-hydroxyphenylboronic acid | OC1=C(C=CC=C1)B(O)O | C6H7BO3
product | (S)-N-((S)-1-Cyano-2-(6-(2-hydroxyphenyl)pyridin-3-yl)ethyl)piperidine-2-carboxamide | C(#N)[C@H](CC=1C=NC(=CC1)C1=C(C=CC=C1)O)NC(=O)[C@H]1NCCCC1 | C20H22N4O2
